US08809342B2
A solution of 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine (0.200 g, 0.651 mmol), methyl 5-chloropyrazine-2-carboxylate (124 mg, 0.716 mmol), and diisopropylethylamine (168 mg, 1.30 mmol) in 2-propanol (5 mL) was heated in a microwave reactor at 100° C. for 2 h. The mixture was cooled to room temperature and concentrated. The mixture was concentrated and purified by column chromatography to give methyl 5-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)pyrazine-2-carboxylate (150 mg, 52%). 1H NMR (400 MHz, CDCl3, δ): 8.75 (s, 1H), 7.87 (s, 1H), 7.68 (d, J=8.8 Hz, 2H), 7.64 (d, J=8.8 Hz, 2H), 7.55 (d, J=8.0 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 5.46 (s, 1H), 5.04 (t, 1H), 4.12 (s, 3H), 1.87-1.80 (m, 1H), 1.80-1.60 (m, 2H), 1.02 (d, J=6.4 Hz, 3H), 0.98 (d, J=6.4 Hz, 3H).

reactant | 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine | 0.651 mmol, 0.200 g | CC(CC(N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3N
reactant | methyl 5-chloropyrazine-2-carboxylate | 0.716 mmol, 124 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | diisopropylethylamine | 1.30 mmol, 168 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | methyl 5-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)pyrazine-2-carboxylate | 150 mg, 52% | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC=1N=CC(=NC1)C(=O)OC)C | C24H24F3N3O2
